US04956359
3-(3-Fluorophenoxy)-N-methyl-1-azetidinecarboxamide
A stirred mixture of 5.4 g (0.02 mole) of 3-(3-fluorophenoxy)-azetidine oxalate and 1.7 g (0.022 mole) of methyl isocyanate in 20 ml of tetrahydrofuran was treated with 5 ml of triethylamine then stirring was continued for 3 hr. The reaction was diluted with water and the fine crystalline precipitate obtained was collected by filtration and dried at 60° C. under vacuum to yield 3 g (66.9%) of product, m.p. 155°-156° C. Yield: 66.9%.

reactant | 3-(3-fluorophenoxy)-azetidine oxalate | 0.02 mole, 5.4 g | C(C(=O)O)(=O)O.FC=1C=C(OC2CNC2)C=CC1
reactant | methyl isocyanate | 0.022 mole, 1.7 g | CN=C=O | C2H3NO
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(3-Fluorophenoxy)-N-methyl-1-azetidinecarboxamide | 3 g, 66.9% | FC=1C=C(OC2CN(C2)C(=O)NC)C=CC1 | C11H13FN2O2
